US07550598B2
(Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one
(Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one (0.045 g, 0.013 mmol) was dissolved in ethanol (1.5 mL) and 4-aminothiophenol (0.017 g, 0.013 mmol) was added. The reaction mixture was heated to 180° C. using a microwave reactor for 5-10 minutes. The mixture was then concentrated and purified by LC-MS to give Example 25. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.78 (t, J=7.45 Hz, 3H) 1.30-1.40 (m, 2H) 2.22-2.32 (m, 2H) 6.77 (d, J=8.34 Hz, 3H) 7.33 (d, J=8.59 Hz, 2H) 7.60 (t, J=7.33 Hz, 1H) 7.82-7.92 (m, 2H) 8.12 (d, J=8.08 Hz, 1H); ESI-MS: m/z calc'd for C21H20N4OS 376.47. found 377.2 (M+H)+.

reactant | (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one | 0.013 mmol, 0.045 g | ClC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C15H14ClN3O
reactant | 4-aminothiophenol | 0.013 mmol, 0.017 g | NC1=CC=C(C=C1)S | C6H7NS
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one | NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C21H20N4OS
